US05650422
Following a procedure similar to that described in Example 33A above, 1.72 g (0.005 mol) of 2-(5-mercapto-1,3,4-thiadiazol-2-ylthiomethyl)saccharin was reacted with 1.44 g (0.01 mol) of 2-dimethylaminoethyl chloride hydrochloride in 10 ml of DMF in the presence of 1.72 g (0.017 mol) of triethylamine to give 1.2 g (58%) of 2-(5-[2-(N,N-dimethylamino)ethylthio]-1,3,4-thiadiazol-2-ylthiomethyl)saccharin, mp 90.5°-91.5° C. (from ethyl acetate).

reactant | 2-(5-mercapto-1,3,4-thiadiazol-2-ylthiomethyl)saccharin | 0.005 mol, 1.72 g | SC1=NN=C(S1)SCN1S(=O)(=O)C2=CC=CC=C2C1=O | C10H7N3O3S4
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.01 mol, 1.44 g | Cl.CN(CCCl)C
reactant | triethylamine | 0.017 mol, 1.72 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(5-[2-(N,N-dimethylamino)ethylthio]-1,3,4-thiadiazol-2-ylthiomethyl)saccharin | 1.2 g, 58% | CN(C)CCSC1=NN=C(S1)SCN1S(=O)(=O)C2=CC=CC=C2C1=O | C14H16N4O3S4
